US08222416B2
A mixture of 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (180 mg, 0.44 mmol) and 10% palladium on activated carbon (50 mg) in methanol (200 mL) was heated at 50° C. under hydrogen (50 psi) for 6 h. The mixture was cooled to room temperature. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo and purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (80 mg, 44.4%) as a white solid: LC/MS m/e calcd for C22H26N2O4S [M+H]+ 415.53, observed 415.2; 1H NMR (400 MHz, CD3OD) δ ppm 7.84-7.92 (m, 3H), 7.61 (d, J=8.3 Hz, 2H), 7.50 (d, J=2.5 Hz, 1H), 6.34 (s, 1H), 4.42 (t, J=8.0 Hz, 1H), 3.84-3.93 (m, 5H), 3.32-3.26 (m, 2H), 3.09 (s, 3H), 2.18-2.27 (m, 1H), 1.97-2.05 (m, 1H), 1.69-1.76 (m, 2H), 1.50 (ddt, J=10.8, 7.1, 3.5 Hz, 1H), 1.31-1.42 (m, 2H).

reactant | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 0.44 mmol, 180 mg | CS(=O)(=O)C1=CC=C(C=C1)C(=CC1CCOCC1)C1=CC=2C(=NC=C(C2)OC)N1 | C22H24N2O4S
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 2-[1-(4-methanesulfonyl-phenyl)-2-(tetrahydro-pyran-4-yl)-ethyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 80 mg, 44.4% | CS(=O)(=O)C1=CC=C(C=C1)C(CC1CCOCC1)C1=CC=2C(=NC=C(C2)OC)N1 | C22H26N2O4S
